US04820834
1,3-Dihydro-3(RS)-(4-chlorophenyl)aminocarbonylamino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one
To a solution of 85 mg (0.315 mmole) of 1,3-dihydro-3(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one in 8 ml of dry tetrahydrofuran was added 4-chlorophenylisocyanate (40 μl, 0.315 mmole) at room temperature. Within 15 minutes a flocculant, white precipitate formed. Stirring was continued for 8 hours more and the reaction mixture was filtered. The collected solids were washed with hot methanol and dried in vacuo to give the analytical product: m.p. 278° C. NMR (DMSO-d6): Confirms structure assignment of product.

reactant | 1,3-dihydro-3(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 0.315 mmole, 85 mg | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C15H12FN3O
reactant | 4-chlorophenylisocyanate | 0.315 mmole, 40 μl | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1,3-Dihydro-3(RS)-(4-chlorophenyl)aminocarbonylamino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | ClC1=CC=C(C=C1)NC(=O)NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C22H16ClFN4O2
